US07226644B2
To 20.5 g of 2-butyl-7,8-difluorochroman-2-ol which was dissolved in 70 mL of DMF, 25 g of 4-(trans-4-ethylcyclohexyl)cyclohexylmethyl methanesulfonate and 11.4 g of anhydrous potassium carbonate were added, and heated to reflux for 3 hours. The reaction solution was poured into 10% hydrochloric acid, stirred for a while, and extracted with toluene. An organic layer was washed using 10% hydrochloric acid twive, water, a 5% sodium hydroxide aqueous solution twice, water, a saturated sodium hydrogen carbonate aqueous solution twice, and a saturated saline solution in that order, and dried using anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, and the obtained brown solid material was purified by carrying out column chromatography (silica gel, hexane/toluene), recrystallization (hexane), recrystallization (acetone), and recrystallization (acetone), to obtain 14.7 g of 2-butoxy-7,8-difluoro-6-(trans-4-(trans-4-ethylcyclohexyl)cyclohexylmethoxy) chroman (If) as a colorless crystal.

reactant | 2-butyl-7,8-difluorochroman-2-ol | 20.5 g | C(CCC)C1(OC2=C(C(=CC=C2CC1)F)F)O | C13H16F2O2
reactant | 4-(trans-4-ethylcyclohexyl)cyclohexylmethyl methanesulfonate | 25 g | CS(=O)(=O)OCC1CCC(CC1)[C@@H]1CC[C@H](CC1)CC | C16H30O3S
reactant | potassium carbonate | 11.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 2-butoxy-7,8-difluoro-6-(trans-4-(trans-4-ethylcyclohexyl)cyclohexylmethoxy) chroman | 14.7 g | C(CCC)OC1OC2=C(C(=C(C=C2CC1)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CC)F)F | C28H42F2O3
